US08017605B2
Step C: tert-butyl[(6-{[(2,2,2-trifluoroethyl)amino]carbonyl}-3H-imidazo[4,5-b]pyridin-2-yl)methyl]carbamate
To a DMF 3 mL solution of 2-{[(tert-butoxycarbonyl)amino]methyl}-3H-imidazo[4,5-b]pyridine-6-carboxylic acid (293 mg, 1.0 mmol) were added HOBt (162 mg, 1.2 mmol), 2,2,2-trifluoroethanamine (130 mg, 1.5 mmol), DIPEA (388 mg, 3.0 mmol) and EDC (288 mg, 1.5 mmol). The reaction mixture was stirred at room temperature overnight and was partitioned between EtOAc and water. The organic layer was washed with brine twice, dried over anhydrous Na2SO4, and concentrated under reduced pressure. The residue was purified by prep TLC (MeOH/CH2Cl2=1/10, v/v) to give the title compound (0.26 g, 70%).

reactant | DMF 3 | CN(C)CC1=CC(=C(C(=C1)CN(C)C)O)CN(C)C | C15H27N3O
reactant | 2-{[(tert-butoxycarbonyl)amino]methyl}-3H-imidazo[4,5-b]pyridine-6-carboxylic acid | 1.0 mmol, 293 mg | C(C)(C)(C)OC(=O)NCC1=NC=2C(=NC=C(C2)C(=O)O)N1 | C13H16N4O4
reactant | HOBt | 1.2 mmol, 162 mg | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | 2,2,2-trifluoroethanamine | 1.5 mmol, 130 mg | FC(CN)(F)F | C2H4F3N
reactant | DIPEA | 3.0 mmol, 388 mg | CCN(C(C)C)C(C)C | C8H19N
reactant | EDC | 1.5 mmol, 288 mg
product | tert-butyl[(6-{[(2,2,2-trifluoroethyl)amino]carbonyl}-3H-imidazo[4,5-b]pyridin-2-yl)methyl]carbamate | 0.26 g, 70% | C(C)(C)(C)OC(NCC1=NC=2C(=NC=C(C2)C(=O)NCC(F)(F)F)N1)=O | C15H18F3N5O3
